US06352976B1
6.4 Synthesis of 2-mercapto-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine-N-methyl amide
Combine 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide (0.26 g, 0.45 mmol), mercury (II) acetate (0.156 g, 0.49 mmol), and anisole (0.49 mL, 4.5 mmol) in dichloromethane (10 mL). Cool in an ice bath and degas by repeatedly applying vacuum and filling the vessel with nitrogen. Add trifluoroacetic acid (2 mL). After 3 hours, filter and evaporate in vacuo to give a residue. Repeatedly, combine the residue and carbon tetrachloride and evaporate in vacuo to give a residue. Triturate the residue with hexane to give the title compound as a solid (165 mg, 80.4%).

reactant | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide | 0.45 mmol, 0.26 g | CNC([C@@H](NC([C@@H](NC(C(CCC)SCC1=CC=C(C=C1)OC)=O)CCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C33H41N3O4S
reactant | anisole | 4.5 mmol, 0.49 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.49 mmol, 0.156 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | 2-mercapto-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine-N-methyl amide | 165 mg, 80.4% | CNC([C@@H](NC([C@@H](NC(C(CCC)S)=O)CCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C25H33N3O3S
